US06891066B2
2,3,4-Trifluorobenzoic acid and 4-butyl-2-fluoroaniline were reacted in the presence of LiHMDS solution in THF by the general procedure of Example 1, Step B, affording crude 2-(4-butyl-2-fluoroanilino)-3,4-difluorobenzoic acid after workup. The crude material was further purified by flash chromatography on silica (10% EtOAc/Hexane as eluant) to give the desired compound (40%). 1H NMR [400 MHz, CH3OD] δ 7.86 (ddd, J=8.4, 5.8, 2.1 Hz, 1 H), 6.96-6.86 (m, 3 H), 6.78 (ddd, J=9.4, 9.4, 7.1 Hz, 1 H), 2.58 (t, J=7.7 Hz, 2 H), 1.63-1.55 (m, 2 H), 1.36 (sextet, J=7.4, 2 H), 0.94 (t, J=7.5, 3 H). LCMS (ACPI+) 329 (100%).

reactant | 2,3,4-Trifluorobenzoic acid | FC1=C(C(=O)O)C=CC(=C1F)F | C7H3F3O2
reactant | 4-butyl-2-fluoroaniline | C(CCC)C1=CC(=C(N)C=C1)F | C10H14FN
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | C1CCOC1 | C4H8O
product | 2-(4-butyl-2-fluoroanilino)-3,4-difluorobenzoic acid | C(CCC)C1=CC(=C(NC2=C(C(=O)O)C=CC(=C2F)F)C=C1)F | C17H16F3NO2
